2149-02-08 09:33:00 Physician Attending Progress Note
Chief Complaint: VRE bacteremia, acute renal failure, altered mental
   status, pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Right triple lumen placed in IJ for dialysis; slight oozing at site.
   Ongoing transfusion requirements. Now on insulin drip with improved
   serum glucose. TPN being held.
   CVVH started. Fluid being removed. Creat down this AM.
   O2 sats acceptable without supplemental oxygen.
   24 Hour Events:
 PICC LINE - START [**2149-2-7**] 04:35 PM
 MIDLINE - START [**2149-2-7**] 04:36 PM
 DIALYSIS CATHETER - START [**2149-2-7**] 04:44 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2149-2-8**] 01:18 AM
   Metronidazole - [**2149-2-8**] 03:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-8**] 08:35 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-2-7**] 10:05 PM
   Lorazepam (Ativan) - [**2149-2-8**] 06:04 AM
   Hydromorphone (Dilaudid) - [**2149-2-8**] 09:00 AM
   Other medications:
   Neupogen, potassium, neurontin, colace, ursodiol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-8**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.7
C (96.2
   HR: 106 (87 - 124) bpm
   BP: 157/87(102) {143/75(94) - 186/109(116)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    980 mL
                                                                  2,439 mL
   PO:
           TF:
   IVF:
                                                                    662 mL
                                                                  1,740 mL
   Blood products:
                                                                    319 mL
                                                                    699 mL
   Total out:
                                                                  1,688 mL
                                                                  5,300 mL
   Urine:
                                                                    525 mL
                                                                    757 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -708 mL
                                                                 -2,861 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Alopecia
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: ), Slightly coarse upper airway sounds
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: , Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, echymoses
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   32 K/uL
   67 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.3 mEq/L
   69 mg/dL
   106 mEq/L
   140 mEq/L
   25.6 %
   0.2 K/uL
        [image002.jpg]
                             [**2149-2-7**]  04:09 PM
                             [**2149-2-7**]  07:00 PM
                             [**2149-2-8**]  12:02 AM
                             [**2149-2-8**]  05:50 AM
   WBC
   0.2
   0.2
   Hct
   22.4
   25.6
   Plt
   21
   20
   32
   Cr
   2.5
   1.7
   Glucose
   [**Telephone/Fax (3) 3343**]7
   Other labs: PT / PTT / INR:18.6/36.0/1.7, CK / CKMB / Troponin-T:41//,
   ALT / AST:133/119, Alk Phos / T Bili:69/5.5, Differential-Neuts:68.0 %,
   Band:4.0 %, Lymph:28.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:603 mg/dL,
   Lactic Acid:1.9 mmol/L, LDH:568 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   PANCYTOPENIA
   ALTERED MENTAL STATUS
   VRE BACTEREMIA
   HYPERGLYCEMIA
   Urine output may be increasing; now about 40-50 cc/hr. Continues on
   CVVH. BUN/Creat levels suggest possible ATN. Oxygenation remains good.
   On antibiotics. Hemodynamically stable.
   Hyperglycemia improved with IV insulin, which has now been stopped.
   Continue to monitor glucose.
   Patient receiving RBC and transplant transfusions per oncology
   protocol. Discuss with them the need for present threshold for
   transfusion in setting of significant total body volume overload.
   Restart pneumatic boots.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-02-09 10:07:00 Physician Attending Progress Note
Chief Complaint: Pancytopenia, [**Last Name (un) 3332**]-occlusive disease. bacteremia,
   hyperglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given FFP and PRBC's and platelets per oncology protocol.
   AFebrile on antibiotics.
   Restarted on her insulin infusion yesterday for persistently high
   sugars.
   Mild tachycardia through the night. Given tylenol with improved HR.
   VBG's showed possible alkalosis. ABG  7.48/25/94
   Patient still agitated intermittently.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-8**] 03:42 PM
   Metronidazole - [**2149-2-9**] 02:11 AM
   Caspofungin - [**2149-2-9**] 02:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-9**] 08:34 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-2-8**] 10:53 PM
   Hydromorphone (Dilaudid) - [**2149-2-9**] 02:30 AM
   Hydralazine - [**2149-2-9**] 05:01 AM
   Other medications:
   Chlotrimazole, neurontin, colace, ursodiol, cellcept, glutamine, folic
   acid, hydralazine, ativan prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-9**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 110 (81 - 117) bpm
   BP: 155/87(103) {146/76(94) - 165/96(112)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  6,588 mL
                                                                  1,716 mL
   PO:
           TF:
   IVF:
                                                                  4,655 mL
                                                                  1,519 mL
   Blood products:
                                                                  1,932 mL
                                                                    197 mL
   Total out:
                                                                 14,952 mL
                                                                  2,351 mL
   Urine:
                                                                    971 mL
                                                                    204 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -8,364 mL
                                                                   -635 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.43/28/38/19/-3
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Patient
   responded to commands to squeeze her hand and to take deep breaths
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Moist oral mucosa
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: RUQ, Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   27 K/uL
   148 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.5 mEq/L
   42 mg/dL
   108 mEq/L
   139 mEq/L
   28.9 %
   0.3 K/uL
        [image002.jpg]
                             [**2149-2-8**]  12:02 AM
                             [**2149-2-8**]  05:50 AM
                             [**2149-2-8**]  10:44 AM
                             [**2149-2-8**]  11:10 AM
                             [**2149-2-8**]  02:45 PM
                             [**2149-2-8**]  04:56 PM
                             [**2149-2-8**]  08:20 PM
                             [**2149-2-9**]  01:16 AM
                             [**2149-2-9**]  03:29 AM
                             [**2149-2-9**]  04:09 AM
   WBC
   0.2
   0.2
   0.3
   Hct
   25.6
   29.0
   27.2
   28.9
   Plt
   20
   32
   19
   42
   30
   23
   27
   Cr
   1.7
   1.6
   1.4
   1.1
   TCO2
   19
   19
   Glucose
   187
   67
   107
   143
   148
   Other labs: PT / PTT / INR:21.3/40.0/2.0, CK / CKMB / Troponin-T:41//,
   ALT / AST:133/119, Alk Phos / T Bili:69/5.5, Amylase / Lipase:[**9-6**],
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:28.0 %, Mono:4.0 %,
   Eos:0.0 %, Fibrinogen:369 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.0
   g/dL, LDH:568 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: no free air under diaphragm. Probable right pleural
   effusion.
   Assessment and Plan
 HYPERGLYCEMIA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   PANCYTOPENIA
   ACIDOSIS
   Renal function improved significantly over past 36 hours. Significant
   negative fluid balance with CVVH.
   Mental status better this morning; patient able to follow simple
   commands.
   Patient has respiratory alkalosis, possibly related to discomfort. She
   has a non-anion gap metabolic acidosis, which is probably a
   compensation for the respiratory alkalosis. No diarrhea. Oxygenation in
   good range.
   Insulin being adjusted to maintain serum glucose in range.
   Blood pressure remains high on hydralazine. Check with renal about
   using IV ACE inhibitor. If that is not an option, consider clonidine
   patch.
   Continues with abdominal pain, likely from the VOD. Checking stool for
   C diff. Bilirubin continues to rise. Will ask liver service to consult.
   LDH up; check smear for schistocytes.
   Continue to support blood counts with transfusions per protocol.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-02-10 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Initiation of CRRT
   24 Hour Events:
   - INR 1.8, patient given another 1 unit of FFP and 10 mg IV K. Per heme
   onc needs q6h coags and fibrinogen until this is stable and INR > 1.5
   needs to be corrected with FFP.
   - Given hypertension she was started on a labetolol gtt per renal recs.
   - Tac level was 10.2
   - CXR and AXR this am sent for nonspecific pain showed: CXR - no free
   air is detected beneath the diaphragm. Although slightly blurred, the
   visualized bowel loops are grossly unremarkable. A small right
   pleural effusion is seen, similar to that seen on the chest x-ray from
   [**2149-2-7**].
   - ID had no changes in their recs.
   - Heme/onc had no changes in their recs.
   - [**Last Name (un) 294**] agreed with plan to increase lantus so that the insulin gtt
   could be weaned off.
   - C.diff x 2 pending and 1 C.diff negative; BCx NGTD.
   - Plt count did not bump at all to plt transfusion at 10 pm med
   dosing.  BMT fellow was contact[**Name (NI) **] and said to give plt again with next
   infusion and if still not bumping, check with the blood bank in the am
   about the possibility of plt antibodies.  Was given 2 units of platlets
   after plt at recheck were 13 and post transfusion plt count was 27.
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-8**] 03:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-9**] 08:10 PM
   Caspofungin - [**2149-2-10**] 12:40 AM
   Metronidazole - [**2149-2-10**] 02:44 AM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-2-9**] 09:00 AM
   Hydralazine - [**2149-2-9**] 09:40 AM
   Hydromorphone (Dilaudid) - [**2149-2-9**] 10:04 PM
   Pantoprazole (Protonix) - [**2149-2-9**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-10**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 34.7
C (94.5
   HR: 76 (72 - 111) bpm
   BP: 114/60(71) {114/59(71) - 184/101(119)} mmHg
   RR: 16 (10 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 85.2 kg
           Total In:
                                                                  5,118 mL
                                                                  1,027 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  3,435 mL
                                                                    752 mL
   Blood products:
                                                                  1,583 mL
                                                                    275 mL
   Total out:
                                                                  7,718 mL
                                                                  1,156 mL
   Urine:
                                                                    707 mL
                                                                     37 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,600 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.45/31/78.[**Numeric Identifier 274**]/18/0
   Physical Examination
   General Appearance: NAD
   Head, Ears, Nose, Throat: Normocephalic, mmm
   Cardiovascular: regular rate
   Peripheral Vascular: 2+ DP pulses bilaterally
   Respiratory / Chest: rhoncorous throughout, diminished at the bases
   Abdominal: Soft, (+) bowel sounds, no TTP
   Extremities: Right: 4+, Left: 4+ edema bilaterally
   Skin:  Not assessed
   Neurologic: withdraws to pain
   Labs / Radiology
   22 K/uL
   10.2 g/dL
   100 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.6 mEq/L
   40 mg/dL
   108 mEq/L
   137 mEq/L
   27.5 %
   0.2 K/uL
        [image002.jpg]
                             [**2149-2-9**]  01:16 AM
                             [**2149-2-9**]  03:29 AM
                             [**2149-2-9**]  04:09 AM
                             [**2149-2-9**]  11:52 AM
                             [**2149-2-9**]  11:54 AM
                             [**2149-2-9**]  06:27 PM
                             [**2149-2-9**]  11:16 PM
                             [**2149-2-9**]  11:49 PM
                             [**2149-2-10**]  03:06 AM
                             [**2149-2-10**]  05:21 AM
   WBC
   0.3
   0.2
   Hct
   27.2
   28.9
   27.5
   Plt
   23
   27
   32
   12
   12
   13
   22
   Cr
   1.1
   1.0
   TCO2
   19
   22
   Glucose
   148
   134
   100
   Other labs: PT / PTT / INR:19.7/41.9/1.8, CK / CKMB / Troponin-T:41//,
   ALT / AST:125/105, Alk Phos / T Bili:66/5.2, Amylase / Lipase:[**9-6**],
   Differential-Neuts:47.0 %, Band:6.0 %, Lymph:35.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:328 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.0
   g/dL, LDH:481 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 .H/O HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   35 y/o female with a history of T-cell lymphoma who presented for
   ablative chemotherapy with TBI Cytoxan followed by cord blood
   transplantation of a double cord, was transferred to the ICU for
   initiation of CRRT and management of hyperglycemia.
   # ARF/Need for CRRT - Sediment c/w ATN - Most likely etiology a
   combination of Prograf and acyclovir toxicity. Renal following. Remains
   volume overloaded. Has had aggressive trial of diuresis with high doses
   of Lasix/thiazides. Transfered to [**Hospital Unit Name 10**] for initiation of CRRT.  Had a
   total of 7.7 L off yesterday, total of 2.6L negative in 24 hours.
   - Renal currently following pt, appreciate recs
   - trend lytes [**Hospital1 **]
   # Hyperglycemia
 FS 69 this morning, insulin gtt turned off.
   Hyperglycemia likely [**3-3**] to Solumedrol. On floor, pt's FSBG were
   consistenly over 400. Pt was initially started on an insulin gtt that
   was d/c
d yesterday/ Following a returning of CBGs above her goal of
   100-151 pt was restarted on Insulin IV gtt [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**] recs. Will
   following insulin gtt requirement with the goal of titrating up the
   Lantus dose.  Lantus was held this morning with goal of adding up total
   insulin gtt requirement and adding [**Last Name (un) 3384**] to her lantus.  Likely had poor
   sq absorption of insulin so will be difficult to titrate
   - will increase lantus per insulin gtt requirement over last 24 hours
   and transition to SSI
   - [**Last Name (un) 294**] following, appreciate recs
   # T cell lymphoma: Day +18 post cord stem cell transplant.  ANC this
   morning
   - Cont Cellcept and solumedrol 40 mg IV BID, hold tacrolimus given
   concern for toxicity, monitor daily levels
   - Awaiting recovery of counts (usually takes until day 21), transfusing
   pRBCs and plts as needed to keep hct>30 and plts>30.
   - continue neupogen 480 mcg SQ daily
   - daily coags, keep INR < 1.5 and fibrinogen > 150, plts >30, hct >30
   whilst on protocol
   - CBC with ANC [**Hospital1 **]
   - type and cross Q week, CMV viral load qweek, EBV viral load qweek
   (will check every Monday)
   - currently plt and hct goals both 30.  Hct goal will be difficult to
   attain given her persistenly low RBC liklely [**3-3**] to chemo.
   -
   # Thrombocytopenia:  Persisently low likely [**3-3**] chemo.  Plt did not
   bump appropriately last night after 2 units (13-
13) but at 27 this
   morning.  Discussed possiblity of plt antibody with transfusion
   medicine
 given bump to 27, less concerning for it.  Advised that to
   get an accurate plt count it must be drawn 15-30 minutes after
   transfusion which we have not been doing.
   -transfusion medicine to discuss plt goal with heme/onc
 who needs to
   discuss with principle investigator of study to determine bottom limit
   of acceptable plt count
   # Presumed VOD - Pt with RUQ pain, ascites, and question of reversal of
   flow in the portal system. Decision made by oncology to start treatment
   with defibrotide.
   - continue defibrotide Q6H, infuse over 2 hours
   - plt and hct goals as above
   - tranfuse to current goals of plt>30 and hct >30 per heme/onc
   # Hypertension: Current blood pressure goals for pt is SBP 130-150. Her
   hydralazine was increased from 10mg q6h to 15mg q6h. Pt unfortunately
   does not take POs as she would benefit from a longer acting
   antihypertensive. Other options to consider for antihypertensive
   regimens are Clonidine patch, ACEI IV.  Was started on labetalol gtt
   yesterday which controlled bp
s well, has not required it this morning
   -Discuss with renal regarding starting a long term ACEI IV, Clonidine
   patch for BP control.
   # Fevers
 Had been afebrile for the last 24 hours. Pt started on
   vancomycin [**2149-1-18**] as L IJ CVL was tender and mildly erythematous.
   There was suspicion of line contamination so IJ line removed by IR on
   [**2149-1-20**]. Hickman removed [**1-30**]( due to VRE on BC), PICC in place [**1-31**],
   per ID c/s on [**2-1**] cefepime changed to zosyn for better anaerobe
   coverage. Overnight pt was noted to be tachycardic in the low 100s, pt
   was also noted to be
shaking
 and uncomfortable. Pt
s tachycardia
   appeared to improve after administration of Tylenol. Pt is currently on
   immunosuppressive therapy concern remains whether tachycardia may be a
   sign of an infectious state, will maintain a low threhold and obtain
   surveillance cultures particularly as last cultures were drawn three
   days ago.
   - continue dapto, flagyl and zosyn as outlined below
   - f/u cultures
   - f/u ID recs
   - surveillance cx
   # h/o C. difficile colitis: Has had no(diarrhea and abdominal pain),
   currently one C. diff has been sent yesterday.
   - was on PO vancomycin, now on Flagyl
   - f/u c.diff assay
   - continue contact precautions
    # Diastolic HTN starting [**1-24**] likely [**3-3**] to Tacro toxicity
   - will monitor BP closely during CRRT
    # Mucositis, slowing improving
   - continue supportive care and pain regimen
   # ? Line infection:
   - Cont daptomycin and zosyn
   # Intragluteal folds rash: Unlikely to be fungal (no satellite lesions,
   just appears irritated). Continue Tucks pads PRN.
   # Nausea: Cont antiemetics.
   # Bone pain: Cont dilaudid prn
   # Prophylaxis: NPO, holding tube feeds, PPI, no SQ heparin given severe
   thrombocytopenia.
   # Code: Full Code
   # Contact: [**Name (NI) 443**] [**Name (NI) 152**] [**Telephone/Fax (1) 3339**]
   ICU Care
   Nutrition: holdin tube feeds, will discuss with heme/onc about
   restarting
   Glycemic Control:  Lantus and SSI as above
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: (None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2149-02-10 12:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   no overnight events
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-8**] 03:42 PM
   Caspofungin - [**2149-2-10**] 12:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-10**] 08:00 AM
   Metronidazole - [**2149-2-10**] 09:24 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-2-9**] 10:11 PM
   Hydromorphone (Dilaudid) - [**2149-2-10**] 07:30 AM
   Lorazepam (Ativan) - [**2149-2-10**] 09:38 AM
   Other medications:
   SoluMedrol, Flagyl, Clotrimazole, Gabapentin, Colace, Ursodiol,
   posiconazole, Wellbutrin, Cellcept, GCSF, glutamine, defibrotide,
   Lantus, folate, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-10**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.6
   HR: 78 (72 - 94) bpm
   BP: 131/79(89) {87/50(67) - 159/81(97)} mmHg
   RR: 23 (10 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 85.2 kg
           Total In:
                                                                  5,118 mL
                                                                  2,593 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  3,435 mL
                                                                  1,832 mL
   Blood products:
                                                                  1,583 mL
                                                                    761 mL
   Total out:
                                                                  7,718 mL
                                                                  4,872 mL
   Urine:
                                                                    707 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,600 mL
                                                                 -2,271 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.45/31/78.[**Numeric Identifier 274**]/20/0
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   27 K/uL
   120 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.7 mEq/L
   41 mg/dL
   106 mEq/L
   139 mEq/L
   29.2 %
   0.2 K/uL
        [image002.jpg]
                             [**2149-2-9**]  03:29 AM
                             [**2149-2-9**]  04:09 AM
                             [**2149-2-9**]  11:52 AM
                             [**2149-2-9**]  11:54 AM
                             [**2149-2-9**]  06:27 PM
                             [**2149-2-9**]  11:16 PM
                             [**2149-2-9**]  11:49 PM
                             [**2149-2-10**]  03:06 AM
                             [**2149-2-10**]  05:21 AM
                             [**2149-2-10**]  05:22 AM
   WBC
   0.3
   0.2
   0.2
   Hct
   28.9
   27.5
   29.2
   Plt
   27
   32
   12
   12
   13
   22
   27
   Cr
   1.1
   1.0
   1.1
   TCO2
   19
   22
   Glucose
   148
   134
   100
   120
   Other labs: PT / PTT / INR:17.5/35.3/1.5, CK / CKMB / Troponin-T:41//,
   ALT / AST:106/74, Alk Phos / T Bili:73/4.6, Amylase / Lipase:[**9-6**],
   Differential-Neuts:55.0 %, Band:1.0 %, Lymph:17.0 %, Mono:24.0 %,
   Eos:0.0 %, Fibrinogen:361 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.1
   g/dL, LDH:388 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology: Cdiff- neg
   CMV/EBV- pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -cont RRT --> ? if CVVH necessary? Will d/w Renal svce
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -cont pain regimen
 HYPERGLYCEMIA- related to steroid tx, cont insulin gtt, convert to
   Lantus if possible + RISS
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)- d+18 s/p cord SCT,
   c/b VOD
   -immune regimen per Heme svce
   -cont defibrotide protocol per Heme
 HYPERBILIRUBINEMIA- if related to VOD or other process, cont to trend
 PANCYTOPENIA, NEUTROPENIC FEVER, VRE INFXN- cont broad ABX and follow
   as per ID
 HYPERTENSION- titration of labetalol, poss up-titration of ACE-I as
   per Renal
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2149-02-11 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - per transfusion medicine, low likelihood of anti-plt ab rxn,
   recommended that we shouldget a plt count 15-20 min after the platelets
   are transfused - anything after that will definitely be lower.  Could
   also check a panel reactive antibody (did not do).  Can also transfuse
   'O' platelets if concerned (did not do)
   - per heme/onc who spoke with the PI of the protocol, absolute lowest
   plt count is 20.  We should check it [**Hospital1 **] (3am and 3pm) and transfuse
   for significantly lower than 20
   - hct goal remains around 30 - but we should base it on her fluid
   status as well
   - plt count at 5pm was 15, got one unit along with her 8pm dose of
   Defibrotide
   - hct at 5pm was 33
   - renal recs to continues CVVH
   - patient with only minimal agitation - managed well with pain
   medication and ativan
   - Lantus increased to 50 units qd, off insulin gtt, on humalog sliding
   scale with q2h fingersticks and q6h SSI dosing per endocrine
   - sugars have been <200 overnight
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-10**] 04:16 PM
   Caspofungin - [**2149-2-11**] 12:56 AM
   Metronidazole - [**2149-2-11**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-11**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-2-10**] 06:22 PM
   Pantoprazole (Protonix) - [**2149-2-10**] 08:56 PM
   Hydromorphone (Dilaudid) - [**2149-2-11**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-11**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 84 (72 - 90) bpm
   BP: 105/57(69) {87/27(49) - 152/80(95)} mmHg
   RR: 13 (9 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 85.2 kg
           Total In:
                                                                  5,047 mL
                                                                  1,107 mL
   PO:
           TF:
   IVF:
                                                                  4,049 mL
                                                                    820 mL
   Blood products:
                                                                    998 mL
                                                                    287 mL
   Total out:
                                                                 10,737 mL
                                                                     55 mL
   Urine:
                                                                    342 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,690 mL
                                                                  1,052 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Young female lying in bed in NAD
   Head, Ears, Nose, Throat: Normocephalic, bruises around her eyes,
   sclera icteric.
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: Coarse breath sounds present.
   Abdominal: +BS, soft, ND, tenderness to palpation over her right side,
   with the most tenderness in her RUQ.
   Extremities: slight edema present b/l
   Peripheral Vascular: 2+ DP pulses bilaterally
   Skin:  Bruising present.
   Neurologic: Patient opens her eyes to voice, will answer some questions
   and follow some commands, althought not consistently.
   Labs / Radiology
   28 K/uL
   11.1 g/dL
   184 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   48 mg/dL
   101 mEq/L
   135 mEq/L
   30.9 %
   0.2 K/uL
        [image002.jpg]
                             [**2149-2-9**]  06:27 PM
                             [**2149-2-9**]  11:16 PM
                             [**2149-2-9**]  11:49 PM
                             [**2149-2-10**]  03:06 AM
                             [**2149-2-10**]  05:21 AM
                             [**2149-2-10**]  05:22 AM
                             [**2149-2-10**]  11:43 AM
                             [**2149-2-10**]  04:41 PM
                             [**2149-2-10**]  10:19 PM
                             [**2149-2-11**]  04:24 AM
   WBC
   0.2
   0.2
   0.2
   0.2
   0.2
   Hct
   27.5
   29.2
   33.0
   30.7
   30.9
   Plt
   12
   12
   13
   22
   27
   15
   14
   28
   Cr
   1.0
   1.1
   1.0
   1.3
   TCO2
   22
   Glucose
   100
   120
   63
   134
   184
   Other labs: PT / PTT / INR:18.5/32.0/1.7, CK / CKMB / Troponin-T:41//,
   ALT / AST:106/74, Alk Phos / T Bili:73/4.6, Amylase / Lipase:[**9-6**],
   Differential-Neuts:55.0 %, Band:1.0 %, Lymph:17.0 %, Mono:24.0 %,
   Eos:0.0 %, Fibrinogen:317 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.1
   g/dL, LDH:388 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   [1][**2149-2-10**]
   Blood (EBV)
   [**Doctor Last Name **]-[**Doctor Last Name **] VIRUS VCA-IgG AB-PENDING; [**Doctor Last Name **]-[**Doctor Last Name **] VIRUS EBNA IgG
   AB-PENDING; [**Doctor Last Name **]-[**Doctor Last Name **] VIRUS VCA-IgM AB-PENDING
   INPATIENT
   [2][**2149-2-10**]
   Immunology (CMV)
   CMV Viral Load-PENDING
   INPATIENT
   [3][**2149-2-9**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [4][**2149-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2149-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2149-2-8**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [7][**2149-2-8**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [8][**2149-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [9][**2149-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   35 y/o female with a history of T-cell lymphoma who presented for
   ablative chemotherapy with TBI Cytoxan followed by cord blood
   transplantation of a double cord, was transferred to the ICU for
   initiation of CRRT and management of hyperglycemia.
   # ARF/Need for CRRT - Sediment c/w ATN - Most likely etiology a
   combination of Prograf and acyclovir toxicity. Renal following. Remains
   volume overloaded. Has had aggressive trial of diuresis with high doses
   of Lasix/thiazides. Transfered to [**Hospital Unit Name 10**] for initiation of CRRT.  Had a
   total of 5.7 L off yesterday, total for LOS in the [**Hospital Unit Name 10**] of 16.1 L
   negative.
   - Renal currently following pt, appreciate recs
   - trend lytes [**Hospital1 **]
   # Hyperglycemia
 FS generally < 200s, insulin gtt turned off.
   Hyperglycemia likely [**3-3**] to Solumedrol. Lantus increased to 50 units of
   lantus qam.
   - Continue increased lantus dose with SSI coverage.  Uptitrate as
   necessary.
   - [**Last Name (un) 294**] following, appreciate recs
   # T cell lymphoma: Day +19 post cord stem cell transplant.
   - Cont Cellcept and solumedrol 40 mg IV BID, hold tacrolimus given
   concern for toxicity, monitor daily levels
   - Awaiting recovery of counts (usually takes until day 21), transfusing
   pRBCs and plts as needed to keep hct>30 and plts>30.
   - continue neupogen 480 mcg SQ daily
   - daily coags, keep INR < 1.5 and fibrinogen > 150, plts >30, hct >30
   whilst on protocol
   - CBC with ANC [**Hospital1 **]
   - type and cross Q week, CMV viral load qweek, EBV viral load qweek
   (will check every Monday)
   - currently plt and hct goals both 30.  Hct goal will be difficult to
   attain given her persistenly low RBC liklely [**3-3**] to chemo.
   # Thrombocytopenia:  Persisently low likely [**3-3**] chemo.  Plt did not
   bump appropriately last night after 2 units (13-
13) but at 27 this
   morning.  Discussed possiblity of plt antibody with transfusion
   medicine
 given bump to 27, less concerning for it.  Advised that to
   get an accurate plt count it must be drawn 15-30 minutes after
   transfusion which we have not been doing.
   -transfusion medicine to discuss plt goal with heme/onc
 who needs to
   discuss with principle investigator of study to determine bottom limit
   of acceptable plt count
   # Presumed VOD - Pt with RUQ pain, ascites, and question of reversal of
   flow in the portal system. Decision made by oncology to start treatment
   with defibrotide.
   - continue defibrotide Q6H, infuse over 2 hours
   - plt and hct goals as above
   - tranfuse to current goals of plt>30 and hct >30 per heme/onc
   # Hypertension: Current blood pressure goals for pt is SBP 130-150. Her
   hydralazine was increased from 10mg q6h to 15mg q6h. Pt unfortunately
   does not take POs as she would benefit from a longer acting
   antihypertensive. Other options to consider for antihypertensive
   regimens are Clonidine patch, ACEI IV.  Was started on labetalol gtt
   yesterday which controlled bp
s well, has not required it this morning
   -Discuss with renal regarding starting a long term ACEI IV, Clonidine
   patch for BP control.
   # Fevers
 Had been afebrile for the last 24 hours. Pt started on
   vancomycin [**2149-1-18**] as L IJ CVL was tender and mildly erythematous.
   There was suspicion of line contamination so IJ line removed by IR on
   [**2149-1-20**]. Hickman removed [**1-30**]( due to VRE on BC), PICC in place [**1-31**],
   per ID c/s on [**2-1**] cefepime changed to zosyn for better anaerobe
   coverage. Overnight pt was noted to be tachycardic in the low 100s, pt
   was also noted to be
shaking
 and uncomfortable. Pt
s tachycardia
   appeared to improve after administration of Tylenol. Pt is currently on
   immunosuppressive therapy concern remains whether tachycardia may be a
   sign of an infectious state, will maintain a low threhold and obtain
   surveillance cultures particularly as last cultures were drawn three
   days ago.
   - continue dapto, flagyl and zosyn as outlined below
   - f/u cultures
   - f/u ID recs
   - surveillance cx
   # h/o C. difficile colitis: Has had no(diarrhea and abdominal pain),
   currently one C. diff has been sent yesterday.
   - was on PO vancomycin, now on Flagyl
   - f/u c.diff assay
   - continue contact precautions
    # Diastolic HTN starting [**1-24**] likely [**3-3**] to Tacro toxicity
   - will monitor BP closely during CRRT
    # Mucositis, slowing improving
   - continue supportive care and pain regimen
   # ? Line infection:
   - Cont daptomycin and zosyn
   # Intragluteal folds rash: Unlikely to be fungal (no satellite lesions,
   just appears irritated). Continue Tucks pads PRN.
   # Nausea: Cont antiemetics.
   # Bone pain: Cont dilaudid prn
   # Contact: [**Name (NI) 443**] [**Name (NI) 152**] [**Telephone/Fax (1) 3339**]
   ICU Care
   Nutrition: Holding TPN per heme/onc, will discuss with them today.
   Glycemic Control:  Lantus and SSI as above
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: None given thromboyctopenia
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2149-02-11 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight not events.
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-10**] 04:16 PM
   Caspofungin - [**2149-2-11**] 12:56 AM
   Metronidazole - [**2149-2-11**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-2-10**] 06:22 PM
   Pantoprazole (Protonix) - [**2149-2-10**] 08:56 PM
   Hydromorphone (Dilaudid) - [**2149-2-11**] 02:30 AM
   Other medications:
   SoluMedrol, Clotrimazole, Neurontin, Colace, Actigal, Cellcept, GCSF,
   glutamine, RISS, Lantus, difibrotide, folate, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-11**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35
C (95
   HR: 79 (69 - 90) bpm
   BP: 130/54(70) {101/27(49) - 152/85(95)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 85.2 kg
           Total In:
                                                                  5,047 mL
                                                                  1,445 mL
   PO:
           TF:
   IVF:
                                                                  4,049 mL
                                                                  1,158 mL
   Blood products:
                                                                    998 mL
                                                                    287 mL
   Total out:
                                                                 10,737 mL
                                                                    168 mL
   Urine:
                                                                    342 mL
                                                                    168 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,690 mL
                                                                  1,277 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: R-sided
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed, follows some commands
   Labs / Radiology
   11.1 g/dL
   28 K/uL
   184 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   48 mg/dL
   101 mEq/L
   135 mEq/L
   30.9 %
   0.2 K/uL
        [image002.jpg]
                             [**2149-2-9**]  06:27 PM
                             [**2149-2-9**]  11:16 PM
                             [**2149-2-9**]  11:49 PM
                             [**2149-2-10**]  03:06 AM
                             [**2149-2-10**]  05:21 AM
                             [**2149-2-10**]  05:22 AM
                             [**2149-2-10**]  11:43 AM
                             [**2149-2-10**]  04:41 PM
                             [**2149-2-10**]  10:19 PM
                             [**2149-2-11**]  04:24 AM
   WBC
   0.2
   0.2
   0.2
   0.2
   0.2
   Hct
   27.5
   29.2
   33.0
   30.7
   30.9
   Plt
   12
   12
   13
   22
   27
   15
   14
   28
   Cr
   1.0
   1.1
   1.0
   1.3
   TCO2
   22
   Glucose
   100
   120
   63
   134
   184
   Other labs: PT / PTT / INR:18.5/32.0/1.7, CK / CKMB / Troponin-T:41//,
   ALT / AST:86/42, Alk Phos / T Bili:100/3.5, Amylase / Lipase:[**9-6**],
   Differential-Neuts:55.0 %, Band:1.0 %, Lymph:17.0 %, Mono:24.0 %,
   Eos:0.0 %, Fibrinogen:317 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2
   g/dL, LDH:301 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: tacro yest- 9.7
   Microbiology: CMV/EBV- pending
   blood cx- neg to date
   C.diff x3- neg
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -cont RRT --> ? if CVVH necessary? Will d/w Renal svce
   -trial of lasix diuresis today 80 iv bid
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -cont pain regimen
 HYPERGLYCEMIA- related to steroid tx, cont insulin gtt, convert to
   Lantus if possible + RISS
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)- d+19 s/p cord SCT,
   c/b VOD
   -immune regimen per Heme svce w/ tacrolimus, Cellcept, GCSF, steroids
   -cont defibrotide protocol per Heme
 HYPERBILIRUBINEMIA- if related to VOD or other process, cont to
   trend, appears to be resolving
 PANCYTOPENIA, NEUTROPENIC FEVER, VRE INFXN
   -cont broad ABX and follow as per ID
   -per Heme plt checks [**Hospital1 **] and transfuse if <20k
 HYPERTENSION- stable today off medications; cont to monitor
 DIABETES- well-controlled on Lantus + RISS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2149-02-12 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [** 3436**] last night noted to be 10, received transfusion of 1u [**Name (NI) 3436**]
   - Pt trialed on Fursomide 80mg IV BID, put out a total of 2678cc
   This am the patient continues to have abdominal pain, although she
   states it is improving.  She also states she is hungry and wants to
   eat.
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-10**] 04:16 PM
   Caspofungin - [**2149-2-12**] 12:00 AM
   Metronidazole - [**2149-2-12**] 02:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-12**] 02:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2149-2-11**] 08:02 PM
   Lorazepam (Ativan) - [**2149-2-11**] 08:12 PM
   Pantoprazole (Protonix) - [**2149-2-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 80 (69 - 91) bpm
   BP: 139/73(88) {120/54(68) - 146/85(95)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 85.2 kg
           Total In:
                                                                  2,914 mL
                                                                    908 mL
   PO:
           TF:
   IVF:
                                                                  2,340 mL
                                                                    709 mL
   Blood products:
                                                                    574 mL
                                                                    199 mL
   Total out:
                                                                  1,568 mL
                                                                  1,110 mL
   Urine:
                                                                  1,568 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,346 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Young female lying in bed in NAD
   Head, Ears, Nose, Throat: Normocephalic, bruises around her eyes,
   sclera icteric.
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: CTAB
   Abdominal: +BS, soft, ND, tenderness to palpation over her right side,
   with the most tenderness in her RUQ.
   Extremities: 1+ edema present b/l
   Peripheral Vascular: 2+ DP pulses bilaterally
   Skin:  Bruising present.
   Neurologic: Alert and oriented x 3, answers questions appropriately and
   follows commands.
   Labs / Radiology
   18 K/uL
   11.3 g/dL
   139 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   77 mg/dL
   103 mEq/L
   136 mEq/L
   32.2 %
   0.3 K/uL
        [image002.jpg]
                             [**2149-2-10**]  05:21 AM
                             [**2149-2-10**]  05:22 AM
                             [**2149-2-10**]  11:43 AM
                             [**2149-2-10**]  04:41 PM
                             [**2149-2-10**]  10:19 PM
                             [**2149-2-11**]  04:24 AM
                             [**2149-2-11**]  10:39 AM
                             [**2149-2-11**]  10:01 PM
                             [**2149-2-12**]  12:29 AM
                             [**2149-2-12**]  03:56 AM
   WBC
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.3
   Hct
   29.2
   33.0
   30.7
   30.9
   31.3
   33.7
   32.2
   Plt
   22
   27
   15
   14
   28
   19
   10
   23
   18
   Cr
   1.1
   1.0
   1.3
   1.4
   1.9
   Glucose
   120
   63
   134
   184
   154
   139
   Other labs: PT / PTT / INR:17.6/32.7/1.6, CK / CKMB / Troponin-T:41//,
   ALT / AST:86/42, Alk Phos / T Bili:100/2.7, Amylase / Lipase:[**9-6**],
   Differential-Neuts:58.0 %, Band:0.0 %, Lymph:14.0 %, Mono:14.0 %,
   Eos:7.0 %, Fibrinogen:272 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2
   g/dL, LDH:301 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.6 mg/dL
   [1][**2149-2-10**]
   Blood (EBV)
   [**Doctor Last Name **]-[**Doctor Last Name **] VIRUS VCA-IgG AB-FINAL; [**Doctor Last Name **]-[**Doctor Last Name **] VIRUS EBNA IgG
   AB-FINAL; [**Doctor Last Name **]-[**Doctor Last Name **] VIRUS VCA-IgM AB-FINAL
   INPATIENT
   [2][**2149-2-10**]
   Immunology (CMV)
   CMV Viral Load-FINAL
   INPATIENT
   [3][**2149-2-9**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [4][**2149-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2149-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2149-2-8**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [7][**2149-2-8**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [8][**2149-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [9][**2149-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   Assessment and Plan
   35 y/o female with a history of T-cell lymphoma who presented for
   ablative chemotherapy with TBI Cytoxan followed by cord blood
   transplantation of a double cord, was transferred to the ICU for
   initiation of CRRT and management of hyperglycemia.
   # ARF/Need for CRRT - Sediment c/w ATN - Most likely etiology a
   combination of Prograf and acyclovir toxicity. Renal following. Remains
   volume overloaded. Has had aggressive trial of diuresis with high doses
   of Lasix/thiazides. Transfered to [**Hospital Unit Name 10**] for initiation of CRRT.  Was off
   CVVHD yesterday and had a trial of 80 mg IV bid.  She responded well to
   the lasix and put out 2.6 L and was only 1.3 L positive yesterday.
   - Renal currently following pt, appreciate recs
   - Continue lasix 80 mg IV bid and following I/Os
   - trend lytes [**Hospital1 **]
   # T cell lymphoma: Day +20 post cord stem cell transplant.
   - Cont Cellcept and solumedrol 40 mg IV BID, hold tacrolimus given
   concern for toxicity, monitor daily levels
   - Awaiting recovery of counts (usually takes until day 21), transfusing
   pRBCs and [**Hospital1 **] as needed to keep hct>30 and [**Hospital1 **]>30.
   - continue neupogen 480 mcg SQ daily
   - daily coags, keep INR < 1.5 and fibrinogen > 150, [**Hospital1 **] >30, hct >30
   whilst on protocol
   - CBC with ANC [**Hospital1 **]
   - type and cross Q week, CMV viral load qweek, EBV viral load qweek
   (will check every Monday)
   - currently plt and hct goals both 30, however her plt can be
   transfused for <20 given the difficulty maitaining her at 30.
   # Presumed VOD - Pt with RUQ pain, ascites, and question of reversal of
   flow in the portal system. Decision made by oncology to treatment with
   defibrotide.  Her T.bili continues to improve, today is 2.7.
   - continue defibrotide Q6H, infuse over 2 hours
   - plt and hct goals as above
   - tranfuse to current goals of plt>20 and hct >30 per heme/onc
   # Thrombocytopenia:  Persisently low likely [**3-3**] chemo.  Per transfusion
   medicine, low likelihood of anti-plt ab rxn, recommended that we
   shouldget a plt count 15-20 min after the platelets are transfused -
   anything after that will definitely be lower.
   - per heme/onc who spoke with the PI of the protocol, absolute lowest
   plt count is 20.  We should check it [**Hospital1 **] (3am and 3pm) and transfuse
   for significantly lower than 20
   # Hypertension: Current blood pressure goals for pt is SBP 130-150. She
   is off the labetalol gtt.
   - Continue to monitor and consider labetalol or hydralazine if she
   becomes hypertensive.
   # Fevers
 Had been afebrile for the last 48 hours. Pt started on
   vancomycin [**2149-1-18**] as L IJ CVL was tender and mildly erythematous.
   There was suspicion of line contamination so IJ line removed by IR on
   [**2149-1-20**]. Hickman removed [**1-30**]( due to VRE on BC), PICC in place [**1-31**],
   per ID c/s on [**2-1**] cefepime changed to zosyn for better anaerobe
   coverage
   - continue dapto, flagyl and zosyn, and casopfungin as outlined below
   - f/u cultures
   - f/u ID recs
   # Hyperglycemia
 FS generally < 200s, insulin gtt turned off.
   Hyperglycemia likely [**3-3**] to Solumedrol. Lantus increased to 50 units of
   lantus qam.
   - Continue increased lantus dose with SSI coverage.  Uptitrate as
   necessary.
   - [**Last Name (un) 294**] following, appreciate recs
   # h/o C. difficile colitis: Has had no diarrhea, continues to have RUQ
   abd pain (likely from VOD).  C.diff neg x 3.
   -Continue flagyl per ID recs as patient is neutopenic (even with C.diff
   neg x 3).   Will also start po vanc once she can take po
s per ID recs.
   - continue contact precautions
    # Mucositis, slowing improving
   - continue supportive care and pain regimen
   # Intragluteal folds rash: Unlikely to be fungal (no satellite lesions,
   just appears irritated). Continue Tucks pads PRN.
   # Nausea: Cont antiemetics.
   # Bone pain: Cont dilaudid prn
   # Contact: [**Name (NI) 443**] [**Name (NI) 152**] [**Telephone/Fax (1) 3339**]
   ICU Care
   Nutrition: NPO for now per heme/onc.
   Glycemic Control:  Lantus and SSI as above
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: none given thrombocytopenia
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Can be called out to oncology given her stability off
   CVVHD.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2149-02-12 11:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   plt transfusion o/n. 2.6L UOP w/ Lasix yest. speaking in complete
   sentences. still noting abd pain. wants to eat
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-10**] 04:16 PM
   Caspofungin - [**2149-2-12**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-12**] 07:56 AM
   Metronidazole - [**2149-2-12**] 10:26 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-2-11**] 08:12 PM
   Pantoprazole (Protonix) - [**2149-2-11**] 10:00 PM
   Furosemide (Lasix) - [**2149-2-12**] 07:53 AM
   Other medications:
   Lasix IV 80 bid, RISS, Lantus, Defibrotide, MVI, folate, Protonix,
   Daptomycin, Solu-Medrol, Flagyl, zosyn, Caspofungin, Clotrimazole,
   gabapentin, Colace, Ursodiol, Cellcept, tacrolimus, GCSF, glutamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-12**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.7
C (96.3
   HR: 93 (78 - 93) bpm
   BP: 134/79(91) {120/63(78) - 145/81(95)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 85.2 kg
           Total In:
                                                                  2,914 mL
                                                                  1,394 mL
   PO:
           TF:
   IVF:
                                                                  2,340 mL
                                                                  1,135 mL
   Blood products:
                                                                    574 mL
                                                                    199 mL
   Total out:
                                                                  1,568 mL
                                                                  1,590 mL
   Urine:
                                                                  1,568 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,346 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Diminished: b
   bases)
   Abdominal: Soft, Bowel sounds present, Tender: R-sided
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   10 K/uL
   139 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   77 mg/dL
   103 mEq/L
   136 mEq/L
   33.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2149-2-10**]  05:22 AM
                             [**2149-2-10**]  11:43 AM
                             [**2149-2-10**]  04:41 PM
                             [**2149-2-10**]  10:19 PM
                             [**2149-2-11**]  04:24 AM
                             [**2149-2-11**]  10:39 AM
                             [**2149-2-11**]  10:01 PM
                             [**2149-2-12**]  12:29 AM
                             [**2149-2-12**]  03:56 AM
                             [**2149-2-12**]  10:03 AM
   WBC
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.3
   0.3
   Hct
   29.2
   33.0
   30.7
   30.9
   31.3
   33.7
   32.2
   33.4
   Plt
   27
   15
   14
   28
   19
   10
   23
   18
   10
   Cr
   1.1
   1.0
   1.3
   1.4
   1.9
   Glucose
   120
   63
   134
   184
   154
   139
   Other labs: PT / PTT / INR:18.1/33.4/1.6, CK / CKMB / Troponin-T:41//,
   ALT / AST:66/20, Alk Phos / T Bili:112/2.7, Amylase / Lipase:[**9-6**],
   Differential-Neuts:58.0 %, Band:0.0 %, Lymph:14.0 %, Mono:14.0 %,
   Eos:7.0 %, Fibrinogen:301 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2
   g/dL, LDH:301 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.6 mg/dL
   Fluid analysis / Other labs: tacro yest- 5.9
   Microbiology: All cx neg to date
   CMV VL- undetectable
   EBV VL- pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -good UOP with Lasix diuresis, could transition off RRT today
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)- d+20 s/p cord SCT,
   c/b VOD
   -immune regimen per Heme svce w/ tacrolimus, Cellcept, GCSF, steroids
   -cont defibrotide protocol per Heme
 HYPERBILIRUBINEMIA- related to VOD, appears to be resolving
 PANCYTOPENIA, NEUTROPENIC FEVER, VRE INFXN
   -cont broad ABX and follow as per ID, start po vanco when able to
   tolerate po as per ID
   -per Heme plt checks [**Hospital1 **] and transfuse if <20k
 HYPERTENSION- stable today off medications; cont to monitor
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -cont pain regimen
 HYPERGLYCEMIA- related to steroid tx, stable on Lantus + RISS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2149-02-13 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient called out, however the BMT team was concerned about her
   mental status when they visited her.  She was awake and alert when
   evaluated after they left as she had been in the am.  The plan is to
   call her out in the am.
   - Her lantus was increased to 65 units [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**].
   - Per renal, continue diuresing with lasix and hold of CVVHD for now.
   Continue to hold IV acyclovir and ? of restarting tacroliums.
   - Per ID, continue antibiotics as they are, except change flagyl to po
   vanc when she is able to take po's.  Heme/onc wants a S&S consult
   before allowing her to take po's.
   - She got 1 unit of pRBC, 1 unit of FFP, and a few units of Plt over
   the last 24 h.
   Allergies:
   Codeine
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2149-2-12**] 04:34 PM
   Caspofungin - [**2149-2-13**] 12:31 AM
   Metronidazole - [**2149-2-13**] 01:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-2-13**] 01:47 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-2-12**] 09:00 PM
   Furosemide (Lasix) - [**2149-2-12**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-2-13**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 80 (78 - 93) bpm
   BP: 148/85(95) {127/64(79) - 157/93(105)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 85.2 kg
           Total In:
                                                                  3,184 mL
                                                                  1,344 mL
   PO:
           TF:
   IVF:
                                                                  2,323 mL
                                                                    654 mL
   Blood products:
                                                                    681 mL
                                                                    690 mL
   Total out:
                                                                  3,535 mL
                                                                  1,165 mL
   Urine:
                                                                  3,535 mL
                                                                  1,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -352 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: ///23/
   Physical Examination
   General Appearance: Young female lying in bed in NAD
   Head, Ears, Nose, Throat: Normocephalic, bruises around her eyes,
   sclera icteric.
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: CTAB
   Abdominal: +BS, soft, ND, tenderness to palpation over her right side,
   with the most tenderness in her RUQ.
   Extremities: 1+ edema present b/l
   Peripheral Vascular: 2+ DP pulses bilaterally
   Skin:  Bruising present.
   Neurologic: Alert and oriented x 3, answers questions appropriately and
   follows commands.
   Labs / Radiology
   19 K/uL
   11.2 g/dL
   131 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.6 mEq/L
   99 mg/dL
   101 mEq/L
   137 mEq/L
   30.9 %
   0.4 K/uL
        [image002.jpg]
                             [**2149-2-11**]  10:01 PM
                             [**2149-2-12**]  12:29 AM
                             [**2149-2-12**]  03:56 AM
                             [**2149-2-12**]  10:03 AM
                             [**2149-2-12**]  11:42 AM
                             [**2149-2-12**]  04:06 PM
                             [**2149-2-12**]  05:38 PM
                             [**2149-2-12**]  08:30 PM
                             [**2149-2-13**]  12:00 AM
                             [**2149-2-13**]  04:17 AM
   WBC
   0.2
   0.3
   0.3
   0.4
   0.4
   Hct
   33.7
   32.2
   33.4
   27.3
   30.9
   Plt
   10
   23
   18
   10
   22
   17
   41
   25
   19
   Cr
   1.9
   2.0
   2.3
   Glucose
   139
   155
   131
   Other labs: PT / PTT / INR:20.1/35.0/1.8, CK / CKMB / Troponin-T:41//,
   ALT / AST:66/20, Alk Phos / T Bili:112/2.7, Amylase / Lipase:[**9-6**],
   Differential-Neuts:58.0 %, Band:0.0 %, Lymph:14.0 %, Mono:14.0 %,
   Eos:7.0 %, Fibrinogen:232 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.2
   g/dL, LDH:301 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   35 y/o female with a history of T-cell lymphoma who presented for
   ablative chemotherapy with TBI Cytoxan followed by cord blood
   transplantation of a double cord, was transferred to the ICU for
   initiation of CRRT and management of hyperglycemia.
   # ARF/Need for CRRT - Sediment c/w ATN - Most likely etiology a
   combination of Prograf and acyclovir toxicity. Renal following. Remains
   volume overloaded. Has had aggressive trial of diuresis with high doses
   of Lasix/thiazides. Transfered to [**Hospital Unit Name 10**] for initiation of CRRT.  Was off
   CVVHD yesterday and had a trial of 80 mg IV bid.  She responded well to
   the lasix and put out 2.6 L and was only 1.3 L positive yesterday.
   - Renal currently following pt, appreciate recs
   - Continue lasix 80 mg IV bid and following I/Os
   - trend lytes [**Hospital1 **]
   # T cell lymphoma: Day +20 post cord stem cell transplant.
   - Cont Cellcept and solumedrol 40 mg IV BID, hold tacrolimus given
   concern for toxicity, monitor daily levels
   - Awaiting recovery of counts (usually takes until day 21), transfusing
   pRBCs and plts as needed to keep hct>30 and plts>30.
   - continue neupogen 480 mcg SQ daily
   - daily coags, keep INR < 1.5 and fibrinogen > 150, plts >30, hct >30
   whilst on protocol
   - CBC with ANC [**Hospital1 **]
   - type and cross Q week, CMV viral load qweek, EBV viral load qweek
   (will check every Monday)
   - currently plt and hct goals both 30, however her plt can be
   transfused for <20 given the difficulty maitaining her at 30.
   # Presumed VOD - Pt with RUQ pain, ascites, and question of reversal of
   flow in the portal system. Decision made by oncology to treatment with
   defibrotide.  Her T.bili continues to improve, today is 2.7.
   - continue defibrotide Q6H, infuse over 2 hours
   - plt and hct goals as above
   - tranfuse to current goals of plt>20 and hct >30 per heme/onc
   # Thrombocytopenia:  Persisently low likely [**3-3**] chemo.  Per transfusion
   medicine, low likelihood of anti-plt ab rxn, recommended that we
   shouldget a plt count 15-20 min after the platelets are transfused -
   anything after that will definitely be lower.
   - per heme/onc who spoke with the PI of the protocol, absolute lowest
   plt count is 20.  We should check it [**Hospital1 **] (3am and 3pm) and transfuse
   for significantly lower than 20
   # Hypertension: Current blood pressure goals for pt is SBP 130-150. She
   is off the labetalol gtt.
   - Continue to monitor and consider labetalol or hydralazine if she
   becomes hypertensive.
   # Fevers
 Had been afebrile for the last 48 hours. Pt started on
   vancomycin [**2149-1-18**] as L IJ CVL was tender and mildly erythematous.
   There was suspicion of line contamination so IJ line removed by IR on
   [**2149-1-20**]. Hickman removed [**1-30**]( due to VRE on BC), PICC in place [**1-31**],
   per ID c/s on [**2-1**] cefepime changed to zosyn for better anaerobe
   coverage
   - continue dapto, flagyl and zosyn, and casopfungin as outlined below
   - f/u cultures
   - f/u ID recs
   # Hyperglycemia
 FS generally < 200s, insulin gtt turned off.
   Hyperglycemia likely [**3-3**] to Solumedrol. Lantus increased to 50 units of
   lantus qam.
   - Continue increased lantus dose with SSI coverage.  Uptitrate as
   necessary.
   - [**Last Name (un) 294**] following, appreciate recs
   # h/o C. difficile colitis: Has had no diarrhea, continues to have RUQ
   abd pain (likely from VOD).  C.diff neg x 3.
   -Continue flagyl per ID recs as patient is neutopenic (even with C.diff
   neg x 3).   Will also start po vanc once she can take po
s per ID recs.
   - continue contact precautions
    # Mucositis, slowing improving
   - continue supportive care and pain regimen
   # Intragluteal folds rash: Unlikely to be fungal (no satellite lesions,
   just appears irritated). Continue Tucks pads PRN.
   # Nausea: Cont antiemetics.
   # Bone pain: Cont dilaudid prn
   # Contact: [**Name (NI) 443**] [**Name (NI) 152**] [**Telephone/Fax (1) 3339**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-2-7**] 04:35 PM
   Midline - [**2149-2-7**] 04:36 PM
   Dialysis Catheter - [**2149-2-7**] 04:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: